* Extracted by KLayout with SG13G2 LVS runset on : 08/05/2026 14:29

.SUBCKT funkcija_matching
M$1 \$1 \$1 \$1 \$1 sg13_lv_nmos L=0.13u W=0.3u AS=0.102p AD=0.057p PS=1.28u
+ PD=0.68u
M$2 \$1 \$8 \$3 \$1 sg13_lv_nmos L=0.13u W=0.3u AS=0.057p AD=0.057p PS=0.68u
+ PD=0.68u
M$3 \$3 \$7 \$1 \$1 sg13_lv_nmos L=0.13u W=0.3u AS=0.057p AD=0.057p PS=0.68u
+ PD=0.68u
M$4 \$1 \$6 \$3 \$1 sg13_lv_nmos L=0.13u W=0.3u AS=0.057p AD=0.057p PS=0.68u
+ PD=0.68u
M$5 \$3 \$2 \$4 \$1 sg13_lv_nmos L=0.13u W=0.3u AS=0.057p AD=0.057p PS=0.68u
+ PD=0.68u
M$6 \$4 \$1 \$4 \$1 sg13_lv_nmos L=0.13u W=0.3u AS=0.057p AD=0.102p PS=0.68u
+ PD=1.28u
M$7 \$9 \$9 \$9 \$9 sg13_lv_pmos L=0.13u W=0.6u AS=0.159p AD=0.159p PS=1.96u
+ PD=1.96u
M$8 \$9 \$8 \$10 \$9 sg13_lv_pmos L=0.13u W=0.9u AS=0.171p AD=0.171p PS=2.04u
+ PD=2.04u
M$9 \$10 \$7 \$11 \$9 sg13_lv_pmos L=0.13u W=0.9u AS=0.171p AD=0.171p PS=2.04u
+ PD=2.04u
M$10 \$11 \$6 \$4 \$9 sg13_lv_pmos L=0.13u W=0.9u AS=0.171p AD=0.171p PS=2.04u
+ PD=2.04u
M$17 \$4 \$2 \$9 \$9 sg13_lv_pmos L=0.13u W=0.3u AS=0.057p AD=0.057p PS=0.68u
+ PD=0.68u
.ENDS funkcija_matching
