** sch_path: /home/Nikola.Jankovic/projekat/slucaj_2/pex/testbench/tb_tran_matching.sch
**.subckt tb_tran_matching
Va a GND PULSE(0 1.5 0 0.1p 0.1p 150p 300p)
Vb b GND 0
Vc c GND 0
Vd d GND 1.5
Vdd vdd GND 1.5
x1 vdd out d a c b GND funkcija_matching
**** begin user architecture code



.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ








.include /home/Nikola.Jankovic/projekat/slucaj_2/pex/layout/funkcija_matching.spice
.tran 0.1p 800p

.control
  save all
  run

  meas tran tr_out TRIG v(out) VAL=0.15 RISE=2 TARG v(out) VAL=1.35 RISE=2
  meas tran tf_out TRIG v(out) VAL=1.35 FALL=2 TARG v(out) VAL=0.15 FALL=2

  plot v(a)+4.5 v(b)+3 v(c)+1.5 v(out)
  wrdata /home/Nikola.Jankovic/projekat/slucaj_2/pex/python/odziv_match.txt v(a) v(out)
  print tr_out tf_out
.endc

**** end user architecture code
**.ends
.GLOBAL GND
.end
